US06825170B2
(2E)-3-[4-(2-Pyrimidinyl)phenyl]-2-propenal
A mixture of 4-(2-pyrimidinyl)-benzaldehyde (1.83 g, 9.94 mmol, prepared as described in WO 9828264), (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide (6.45 g, 15.02 mmol), and TDA-1 (3.20 mL, 10.00 mmol) in dichloromethane (50 mL) and sat. aq. K2CO3 (50 mL) was heated to reflux for 20 h. The layers were separated and the aqueous layer was extracted with dichloromethane (2×25 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL), dried (MgSO4), and concentrated. THF (25 mL) and 10% HCl (25 mL) were added and the mixture was stirred for 1 h at rt. The mixture was cooled to 0° C., the precipitated solids were removed by filtration, washed with water and air-dried. Recrystallization from 2-propanol provided 1.20 g (57%) of the title compound as a light yellow solid. MS 211 (M+H)+.

reactant | 4-(2-pyrimidinyl)-benzaldehyde | 9.94 mmol, 1.83 g | N1=C(N=CC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
reactant | (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide | 15.02 mmol, 6.45 g | [Br-].O1C(OCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | TDA-1 | 10.00 mmol, 3.20 mL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | K2CO3 | 50 mL | C(=O)([O-])[O-].[K+].[K+]
product | (2E)-3-[4-(2-Pyrimidinyl)phenyl]-2-propenal | 1.20 g, 57% | N1=C(N=CC=C1)C1=CC=C(C=C1)/C=C/C=O | C13H10N2O
